US09289430B2
2-amino-5-chloro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)-benzamide
Into a 100-mL round bottom flask, was placed a solution of 5-chloro-2-nitro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)benzamide (400 mg, 0.98 mmol, 1.00 equiv) in acetic acid (5 mL), and Zn (640 mg, 9.85 mmol, 10.00 equiv). The resulting solution was stirred for 1 h at 70° C. The solids were filtered out. The resulting mixture was concentrated under vacuum. The solution was adjusted to pH 8 with ammonia (2 mol/L). The resulting solution was extracted with 2×50 mL of ethyl acetate and the organic layers combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. This resulted in 300 mg (81%) of product as a yellow solid.

reactant | 5-chloro-2-nitro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)benzamide | 0.98 mmol, 400 mg, 1.00 equiv | ClC=1C=CC(=C(C(=O)NC2=NN(C=C2)C2=CC(=CC=C2)C(F)(F)F)C1)[N+](=O)[O-] | C17H10ClF3N4O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | Zn | 9.85 mmol, 640 mg, 10.00 equiv | [Zn] | Zn
product | 2-amino-5-chloro-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)-benzamide | 300 mg, 81% | NC1=C(C(=O)NC2=NN(C=C2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)Cl | C17H12ClF3N4O
